US08183380B2
Step B: 4-(2-Methoxy-ethoxy)-benzofuran-3-one oxime:
A mixture of the above described 4-(2-methoxy-ethoxy)-benzofuran-3-one (1.9 g, 9 mmol), sodium acetate (1.5 g, 19 mmol) and hydroxylamine hydrochloride (1.3 g, 19 mmol) in ethanol (15 mL) was refluxed for 4 h. Cooled to 23° C., filtered the precipitate off, washed with water and ethanol and dried in high vacuum to give the title compound as a white solid (1.45 g, 71%); MS: m/e=224.1 (M+H−).

reactant | 4-(2-methoxy-ethoxy)-benzofuran-3-one | 9 mmol, 1.9 g | COCCOC1=CC=CC2=C1C(CO2)=O | C11H12O4
reactant | sodium acetate | 19 mmol, 1.5 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 19 mmol, 1.3 g | Cl.NO
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-(2-Methoxy-ethoxy)-benzofuran-3-one oxime | 1.45 g, 71% | COCCOC1=CC=CC2=C1C(CO2)=NO | C11H13NO4
